US04260410
Example 14--Preparation of 3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone O-allyl oxime
To a solution of 3-(2,6 -dimethylphenylamino)-2-butanone O-allyl oxime (4.5 g) in 75 ml ethyl acetate and 1.6 g pyridine was added dropwise 2.3 g chloroacetyl chloride. The mixture was stirred for 15 minutes, and poured into 1 liter of water. The organic phase was collected, diluted with 100 ml ether, washed with water, dried (MgSO4), treated with silica gel and stripped of solvent to yield 4.9 g yellow oil. The oil was chromatographed on silica gel (125 g) with elution by 3:1 CH2Cl2 :hexane followed by 5% acetone:CH2Cl2, to yield 2.5 g of the title product. This compound is tabulated as Compound No. 20 in Table I.

reactant | 3-(2,6 -dimethylphenylamino)-2-butanone O-allyl oxime | 4.5 g | C(C=C)ON=C(C)C(C)NC1=C(C=CC=C1C)C | C15H22N2O
reactant | pyridine | 1.6 g | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 2.3 g | ClCC(=O)Cl | C2H2Cl2O
reactant | water | 1 liter | O | H2O
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone O-allyl oxime | 4.9 g | C(C=C)ON=C(C)C(C)N(C(CCl)=O)C1=C(C=CC=C1C)C | C17H23ClN2O2
